US08022099B2
5-Bromo-1-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-1-yl}-pentan-1-one
To a stirred solution of 5-bromo-pentanoyl chloride (0.167 ml, 1.25 mmol) in THF (10 ml) at RT was added over 1 hour a solution of [(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine (Intermediate VIII-1, 0.50 g, 1.19 mmol) and triethyl amine (0.18 ml, 1.30 mmol) in THF (5 mL). The reaction was stirred over night, quenched by addition of an aqueous solution of NaHCO3, and the product extracted with EtOAC. Purification by flash chromatography (SiO2, EtOAc/Hx 1:1) yielded 0.58 g (83%) of the title compound as a white solid. ES-MS m/e: 584.4 (M+H+).

reactant | 5-bromo-pentanoyl chloride | 1.25 mmol, 0.167 ml | BrCCCCC(=O)Cl | C5H8BrClO
reactant | [(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 1.19 mmol, 0.50 g | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C19H18Cl2F4N2
reactant | triethyl amine | 1.30 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-1-yl}-pentan-1-one | 0.58 g, 83% | BrCCCCC(=O)N1CC(C(C1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)Cl | C24H25BrCl2F4N2O
